US07494992B2
(1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-(1-methylethyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To a solution of (1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 1,200 mg) in isopropanol (20 ml) was added platinum on carbon (10% w/w, 20 mg) and the resulting mixture was hydrogenated at room temperature with stirring under 1 atmosphere pressure of hydrogen for 18 hours. The mixture was filtered through celite and concentrated in vacuo to give a white solid. The solid was purified by preparative HPLC (1 inch diameter Ultrasphere C18 column, 2 injections; 70:30 acetonitrile:water) to give the product as a white solid (89 mg).

reactant | (1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 1,200 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)OC(C)=O)O | C29H37ClN2O7
reactant | hydrogen | [H][H] | H2
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
catalyst | platinum on carbon | 20 mg | [Pt] | Pt
product | (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-(1-methylethyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 89 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(C)C)C)OC(C)=O)O | C29H39ClN2O7
